US06730670B2
Morpholine-4-carboxylic acid (4-methoxy-7-phenyl-benzo[b]thiophen-2-yl)-amide
The title compound MS: mi/e=369.3 (M+H+) was obtained as a light brown solid (58% yield) by the reaction of morpholine with (4-methoxy-7-phenyl-benzo[b]thiophen-2-yl)-carbamic acid benzyl ester according to the method described above for example 1.

reactant | morpholine | N1CCOCC1 | C4H9NO
reactant | (4-methoxy-7-phenyl-benzo[b]thiophen-2-yl)-carbamic acid benzyl ester | C(C1=CC=CC=C1)OC(NC1=CC2=C(S1)C(=CC=C2OC)C2=CC=CC=C2)=O | C23H19NO3S
product | Morpholine-4-carboxylic acid (4-methoxy-7-phenyl-benzo[b]thiophen-2-yl)-amide | COC1=CC=C(C=2SC(=CC21)NC(=O)N2CCOCC2)C2=CC=CC=C2 | C20H20N2O3S
